US07851626B2
N-[2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}-piperazin-1-yl)-ethyl]-acetamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with N-(2-piperazin-1-yl-ethyl)-acetamide dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 25% methanol in carbon dioxide). HR-MS (ES, m/z) calculated for C38H46N6O5SCl2 [(M+H)+] 769.2700, observed 769.2697.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)S(=O)(=O)N1CCCC1)OCC)C | C30H30Cl3N3O4S
reactant | N-(2-piperazin-1-yl-ethyl)-acetamide dihydrochloride | Cl.Cl.N1(CCNCC1)CCNC(C)=O
product | N-[2-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[2-ethoxy-4-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}-piperazin-1-yl)-ethyl]-acetamide | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCNC(C)=O)C1=C(C=C(C=C1)S(=O)(=O)N1CCCC1)OCC)C | C38H46Cl2N6O5S
